datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[C:11](=[CH2:10])[CH2:62][Fe-2:63]1234(C#[O+])(C#[O+])C5C1C2C3C54>>CC[O:34][C:32]([C:21]([CH:20]([CH2:10][C+:11](C)[CH2:62][Fe-2:63]1234(C#[O+])(C#[O+])C5C1C2C3C54)[C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"C[N:21](C1=CC=CC=C1)[S:20]C(F)(F)F.N[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>C[N-:21]C1=CC=CC=C1.N[C:73]1=[CH:72][C:61]2=[C:62]([NH+:12]=[CH:11][CH:10]2[S:20]C(F)(F)F)[CH:63]=[CH:64]1 10,11=10,20;12=11,12;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].[CH-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1)[C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"CC[O:62][C:81]([CH-:10][N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82].C[C:20]1=[CH:21][C:22](=[O:23])CC1>>CC[O:62][C:81]([CH:10]([C:20]1(C)CC[C:22]([O-:23])=[CH:21]1)[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82] 10=20;20,21=21,22;22,23=23"
"CN1C=C[N+](C)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].[CH:10]1=[CH:11][CH:12]=[C:13]2[C:14]1=[CH:15][CH:66]=[CH:67][CH:68]=[CH:69]2>>CN1C=C[N+](C)=C1[C:22](=[CH:21][CH:20]([CH:10]1[CH:11]=[CH:12][C:13]2=[C:14]1[CH+:15][CH:66]=[CH:67][CH:68]=[CH:69]2)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12,13=11,12;14,15=13,14;20,21=21,22;22,23=23"
"CCCC[O:72][C:11](=[CH2:10])[O:12][Si:63](C)(C)C.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5CC[CH:20]1C2C3C54>>CCCC[O:72][C:11]([CH2:10][CH:20]1CCC2C3C4C1[Fe-3:21]234(C#[O+])(C#[O+])C#[O+])=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.CC[Si:63](CC)(CC)[CH2:62][CH2:11][H:10]>>C1=CC=C([S:32]([CH-:21][CH2:20][H:10])(=[O:33])=[O:34])C=C1.CC[Si:63](CC)(CC)[CH2:62][CH2+:11] 10,11=10,20;20,21=21"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22](=[O:23])[O:39]1.C[O:12][C:11]1=[CH:10][S:61][CH:62]=[CH:63]1>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([CH:10]2[C:11](=[O+:12]C)[CH:63]=[CH:62][S:61]2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]([O-:23])[O:39]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)[O:72][C:61](=[O:62])[CH:10]=[C:11]([O-:12])[O:82]1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]1[C:11](=[O:12])[O:82]C(C)(C)[O:72][C:61]1=[O:62])[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"COC1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1.CO[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>COC1=CC=C([CH:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[C:73](OC)[CH:64]=[CH:63]3)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"Br[Zn-:11](Br)[CH:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2.O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>Br[Zn:11]Br.O=C([O-])C1CC2=C(C=CC=C2)[N:23]1[CH:22]=[CH:21][CH:20]([CH:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:72][C:61](/[CH:10]=[C:11](/C1=CC=CC=C1)[O-:12])=[O:62].C[N+:23](C)=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC[O:72][C:61]([CH:10]([C:11](C1=CC=CC=C1)=[O:12])[CH:20]([CH:21]=[CH:22][N:23](C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:62]/[C:11](=[CH:10]/[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)[O-:12].[CH+:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC[O:62][C:11]([CH:10]([CH:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:12] 10,11=10,20;12=11,12"
"FC1=CC=CC(F)=C1[B-:11](C1=C(F)C=CC=C1F)(C1=C(F)C=CC=C1F)[H:10].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20]N2N=N[N:35]=[C:34]21>>FC1=CC=CC(F)=C1[B:11](C1=C(F)C=CC=C1F)C1=C(F)C=CC=C1F.O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])N2N=N[N:35]=[C:34]21 10,11=10,20;20,21=21,22;22,23=23"
